US08563565B2
(1) Synthesis of benzyl 2-[dihydrofuran-3(2H)-ylidene]hydrazinecarboxylate
3-oxotetrahydrofuran (5.70 g) was dissolved in methanol (150 mL), and benzyl carbazate (10 g) was added to the solution. The mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated. 14.8 g of a residue was obtained as a crude purified product. This was used for the next reaction without further purification.

reactant | 3-oxotetrahydrofuran | 5.70 g | O=C1COCC1 | C4H6O2
reactant | benzyl carbazate | 10 g | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
solvent | methanol | 150 mL | CO | CH4O
product | benzyl 2-[dihydrofuran-3(2H)-ylidene]hydrazinecarboxylate | 14.8 g | O1CC(CC1)=NNC(=O)OCC1=CC=CC=C1 | C12H14N2O3
